data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-CC(C)C_2-C(c1ccccc1)c2ccccc2_3-c1ccc(C#N)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(CC(C)C)(=O)(C(c1ccccc1)c2ccccc2)","C(c1ccc(C#N)cc1)(=O)OO"],"products_smiles": ["C(CC(C)C)(=O)OC(c1ccccc1)c2ccccc2"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)(=[OH+])C(c1ccccc1)c2ccccc2","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC(C)C)([OH])(OOC(=O)c1ccc(C#N)cc1)C(c1ccccc1)c2ccccc2","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC(C)C)(=[OH+])OC(c1ccccc1)c2ccccc2","rationale": "A 1,2-shift occurs from the more migratory C(c1ccccc1)c2ccccc2 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)(=O)OC(c1ccccc1)c2ccccc2","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NG-004_1-c1ccccc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(Cc1ccccc1)C=O","C(Cc1ccccc1)C=O"],"products_smiles": ["C(Cc1ccccc1)C=C(C=O)c1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)c1ccccc1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(Cc1ccccc1)C([O-])C(C=O)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccccc1)C(O)C(C=O)c1ccccc1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccccc1)C(O)[C-](C=O)c1ccccc1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(Cc1ccccc1)C=C(C=O)c1ccccc1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
{"reaction_id": "NR-142_1-c1ccccc1C_2-c1ccc(C)cc1_3-c1ccccc1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1ccccc1C)(c1ccc(C)cc1)(c1ccccc1)"],"products_smiles": ["N(Oc1ccccc1C)(c1ccc(C)cc1)(c1ccccc1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1ccccc1C)(c1ccc(C)cc1)(c1ccccc1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1ccccc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
